US04963568
1 Aminomethyl-5,6-dimethoxy-1-hydroxy-3-phenyl-1,2,3,4-tetrahydro-naphthalene (11.5 g, 37 mmol), from Step 1, was heated at reflux temperature in 300 mL of isopropyl alcohol saturated with hydrochloric acid for 2 h. The resultant solution was concentrated and the solid residue was triturated with hot toluene to give 10.6 g (98% yield) of 1-aminomethyl-3,4-dihydro-5,6-dimethoxy-3-phenyl-naphthalene hydrochloride, m.p. 189.5°-190° C. 1H NMR (d6 -DMSO) delta 2.78 (dd, 1H), 3.11 (dd, 1H), 3.2-3.4 (m, 2H +H2O), 3.6 (s, 3H), 3.81 (s, 3H), 3.93 (d, 1H), 6.1 (d, 1H), 6.93 (d, 1H), 7.12 (d, 1H), 7.2-7.4 (m, 5H).

reactant | Aminomethyl-5,6-dimethoxy-1-hydroxy-3-phenyl-1,2,3,4-tetrahydro-naphthalene | 37 mmol, 11.5 g | NCC1(CC(CC2=C(C(=CC=C12)OC)OC)C1=CC=CC=C1)O | C19H23NO3
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | 300 mL | C(C)(C)O | C3H8O
product | 1-aminomethyl-3,4-dihydro-5,6-dimethoxy-3-phenyl-naphthalene hydrochloride | 10.6 g, 98% yield | Cl.NCC1=CC(CC2=C(C(=CC=C12)OC)OC)C1=CC=CC=C1 | InChI=1S/C19H21NO2.ClH/c1-21-18-9-8-16-15(12-20)10-14(11-17(16)19(18)22-2)13-6-4-3-5-7-13;/h3-10,14H,11-12,20H2,1-2H3;1H
